US04912231
B. (cis)-1-Benzoyl-4-fluoro-L-proline
To a solution of Part A (cis)-1-benzoyl-4-fluoro-L-proline methyl ester (3.7 g, 14.74 mmole) in tetrahydrofuran-water (37 ml-7 ml) was added 31 ml of a 1N solution of lithium hydroxide in water. The reaction was stirred at room temperature for 2 hours. The tetrahydrofuran was evaporated, the pH of the residual aqueous solution was adjusted to 8 and extracted with ethyl acetate. The organic extracts were discarded. The aqueous phase was acidified to pH 2 with concentrated HCl and extracted with dichloromethane. The organic extracts were washed with brine and dried (sodium sulfate). The organic solution was filtered and concentrated to 2.9 g of solid.

reactant | (cis)-1-benzoyl-4-fluoro-L-proline methyl ester | 14.74 mmole, 3.7 g | COC([C@H]1N(C[C@H](C1)F)C(C1=CC=CC=C1)=O)=O | C13H14FNO3
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran water | 37 ml-7 ml | O1CCCC1.O
solvent | water | O | H2O
product | (cis)-1-Benzoyl-4-fluoro-L-proline | C(C1=CC=CC=C1)(=O)N1[C@H](C(=O)O)C[C@@H](C1)F | C12H12FNO3
